US04122179
Apovincamine pivalate
According to the method of the preceding example, 4 g of the salt are prepared starting from 1.02 g of pivalic acid and 3.36 g of apovincamine. The product has melting point of 110° C., is insoluble in water and soluble in alcohol; the apovincamine content thereof is 73.8%.

reactant | pivalic acid | 1.02 g | C(C(C)(C)C)(=O)O | C5H10O2
reactant | apovincamine | 3.36 g | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4C(=C2)C(=O)OC)CC3 | C21H24N2O2
solvent | water | O | H2O
product | Apovincamine pivalate | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4C(=C2)C(=O)OC)CC3.C(C(C)(C)C)(=O)[O-] | InChI=1S/C21H24N2O2.C5H10O2/c1-3-21-10-6-11-22-12-9-15-14-7-4-5-8-16(14)23(18(15)19(21)22)17(13-21)20(24)25-2;1-5(2,3)4(6)7/h4-5,7-8,13,19H,3,6,9-12H2,1-2H3;1-3H3,(H,6,7)/p-1/t19-,21+;/m1./s1
